US08431733B2
To a cooled solution (0-5° C.) of (2S,4R)-tert-butyl 2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-1-carboxylate (3.0 g; 4.82 mmol) in methanol (10 mL) was added 17% methanolic hydrochloric acid (20 mL) dropwise. The reaction mixture was stirred at room temperature for 2 hours under nitrogen atmosphere. Completion of the reaction was monitored by TLC. Methyl t-butylether (50 mL) was added to the mixture and stirred for 10 minutes. The obtained solid was filtered and dried to yield 2.45 g (98%) of (2S,4R)-2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidinium chloride (HPLC purity: 97.74% by area; HPLC retention time: 13.30 minutes), which was used without further purification in the next step.

reactant | (2S,4R)-tert-butyl 2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-1-carboxylate | 4.82 mmol, 3.0 g | C1(CC1)NC([C@H]([C@H](CCC)NC(=O)[C@H]1N(C[C@@H](C1)OC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1)C(=O)OC(C)(C)C)O)=O | C32H42N6O7
reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | Methyl t-butylether | 50 mL | COC(C)(C)C | C5H12O
solvent | methanol | 10 mL | CO | CH4O
product | (2S,4R)-2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidinium chloride | 2.45 g, 98% | [Cl-].C1(CC1)NC([C@H]([C@H](CCC)NC(=O)[C@H]1[NH2+]C[C@@H](C1)OC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1)O)=O | InChI=1S/C27H34N6O5.ClH/c1-3-5-20(25(34)27(36)30-16-6-7-16)32-26(35)22-13-18(15-28-22)38-23-14-24(33-11-4-10-29-33)31-21-12-17(37-2)8-9-19(21)23;/h4,8-12,14,16,18,20,22,25,28,34H,3,5-7,13,15H2,1-2H3,(H,30,36)(H,32,35);1H/t18-,20+,22+,25+;/m1./s1
